US05753692
Synthesis of 5-hydrazonomethylidene-2,2':5',2"-terthiophene
0.5 g of 5-formyl-2,2':5',2"-terthiophene was dissolved in 200 ml of ethanol. 2 ml of hydrazine was dropped in slowly. After 2 ml of H2 SO4 (2N) was dropped in and stirred for 3 hours at room temperature, the reaction solution was monitored by thin layer chromatography to determine whether the reaction was completed. Ethanol was removed under reduced pressure. Then, it was extracted with ethyl acetate and treated in situ on column chromatographic separation. From the eluate of ethyl acetate/n-hexane (1/9) the mixture of syn-5-hydrazonomethylidene-2,2':5',2"-terthiophene and anti-5-hydrazonomethylidene-2,2':5',2"-terthiophene were thus obtained.

reactant | 5-formyl-2,2':5',2"-terthiophene | 0.5 g | C(=O)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C13H8OS3
reactant | hydrazine | 2 ml | NN | H4N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-hydrazonomethylidene-2,2':5',2"-terthiophene | N(N)=C=C1CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C13H10N2S3
